US08383820B2
3-[4-(tert-butyl-dimethyl-silanyloxy)-cyclohexylmethoxy]-benzoic acid
Prepared from [4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyl]-methanol and ethyl 3-hydroxybenzoate by a method similar to Example 1.

reactant | [4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyl]-methanol | C(C)(C)(C)[Si](OC1CCC(CC1)CO)(C)C | C13H28O2Si
reactant | ethyl 3-hydroxybenzoate | OC=1C=C(C(=O)OCC)C=CC1 | C9H10O3
product | 3-[4-(tert-butyl-dimethyl-silanyloxy)-cyclohexylmethoxy]-benzoic acid | C(C)(C)(C)[Si](OC1CCC(CC1)COC=1C=C(C(=O)O)C=CC1)(C)C | C20H32O4Si
